US05580893
N-(2-Nitroxyethyl)-2-chlorophenoxyacetamide (Exemplified compound No. 14)
Following a similar treatment to that in Example 2 and using 0.79 g of 2-chlorophenoxyacetic acid and 0.6 g of 2-nitroxyethylamine nitrate, 0.31 g of the title compound was obtained as colorless acicular prisms (solvent for recrystallization; diisopropyl ether).

reactant | 2-chlorophenoxyacetic acid | 0.79 g | ClC1=C(OCC(=O)O)C=CC=C1 | C8H7ClO3
reactant | 2-nitroxyethylamine nitrate | 0.6 g | [N+](=O)(O)[O-].O([N+](=O)[O-])CCN
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | N-(2-Nitroxyethyl)-2-chlorophenoxyacetamide | 0.31 g | O([N+](=O)[O-])CCNC(COC1=C(C=CC=C1)Cl)=O | C10H11ClN2O5
